Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with hx of HTN, CVA
(___) with residual L sided hemiparesis, MI, and CKD who
presents for chest pain and dyspnea.  
 
The pt states that she she has had worsening dyspnea for the 
past
month or so that is now limiting her ability to exert herself.
Because of her progressive symptoms, she can now barely ambulate
around the room without feeling significantly SOB. This was also
accompanied with occasional chest pain. She further endorsed
abdominal pain and back pain.  She also endorses frequent
headaches. Each of these symptoms seem to correlate closely with
when her blood pressure is very high. 
 
She initially presented to her PCP ___ ___, where labs were 
drawn
revealing for ___ of 16K and Cr elevated to 3.6 from a
presumed baseline of near 1.7. She was referred to the ED for
further management.  
 
Notably, the pt notes that her BPs are typically elevated to
around ___. She admits that she is not taking her
medications as prescribed and typically only takes her
antihypertensives once daily even though they are prescribed as
twice daily medications.  She feels that all of her medications
have stopped working effectively, and in fact they seem to
elevate her blood pressure when she takes them. She's had most 
of
her care at ___, but wanted to try another
___ facility because she wants to have better control of
her blood pressure. 

Of note, she's very concerned about too rapid correction of her
blood pressure. She had an event in ___ where her blood 
pressure
was lowered quickly despite her objections, and she reports a
near cardiac arrest and a stroke. 
 
In the ED:  
Initial vital signs were T 97, HR 102, BP 257/150, RR 18, O2 
100%
on RA. Exam was unremarkable.  

Labs showed:  
 - Cr 3.3, BUN 31  
 - ___ 13655  
 - Trop T 0.04  
 - Otherwise chemistries, CBC, LFTs, and coags wnl  

Studies:  
 - CXR: Cardiomegaly with vascular engorgement, but no overt
pulmonary edema.  

Meds:  
 - ASA 324mg  
 - Morphine 4mg  
 - Nitro gtt  

ED Course: The patient was uptitrated on the nitro gtt for a 
goal
SBP 190-200, however her BPs remained persistently elevated.   
 
On arrival to the CCU, she endorses the above history and states
that she continues to have a headache as well as some chest and
arm pain.  

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative.  

 
Past Medical History:
Cardiac History:
- HTN, poorly controlled  
- CVA (___), with residual L sided hemiparesis  
- MI (___), no stents placed  
- CHF  
- CKD 
 
Social History:
___
Family History:
- Mother had multiple MI's and DM. First MI possibly in her 
___.

- Father died of prostate cancer.
 
Physical Exam:
===================================
ADMISSION EXAMINATION
===================================  
VS:  HR 98, BP 241/160, O2 98% on RA
GENERAL: Comfortable appearing, 
HEENT: Pupils equal and reactive, no scleral icterus or
injection, somewhat dry mucous membranes
NECK: JVP approximately 8cm
CARDIAC:  S1/S2 regular with no murmurs, rubs or S3/S4 
LUNGS: Faint bibasilar rales, no use of accessory muscles, no
respiratory distress
ABDOMEN: Soft, non-tender to deep palpation
EXTREMITIES: No lower extremity edema, warm extremities 
PULSES: Strong pedal and radial pulses
NEURO: Pupils equal and reactive. Extraocular eye movements
intact. Diminished sensation to light touch on the left side of
her face in V1/V2/V3. Symmetric smile. Symmetric palate raise.
Tongue protrudes midline. Hearing intact bilaterally. Eye squint
slightly weaker on left side. L arm with posturing including 
mild
contraction of her L hand, however she has intact strength in 
all
muscle groups of the left arm. She reports diminished sensation
to light touch throughout the left arm and shoulder. Leg 
strength
and right arm strength are normal. 

=====================
DISCHARGE EXAMINATION
====================
Unable to complete, patient left AMA 3 hours after admission 
physical exam was completed

 
Pertinent Results:
LABS ON ADMISSION: 
=================
___ 02:00AM BLOOD WBC-9.8 RBC-4.79 Hgb-12.9 Hct-41.2 MCV-86 
MCH-26.9 MCHC-31.3* RDW-15.8* RDWSD-48.7* Plt ___
___ 02:00AM BLOOD Neuts-66.1 ___ Monos-5.8 Eos-2.7 
Baso-0.4 Im ___ AbsNeut-6.48* AbsLymp-2.42 AbsMono-0.57 
AbsEos-0.27 AbsBaso-0.04
___ 02:00AM BLOOD Plt ___
___ 02:00AM BLOOD ___ PTT-27.3 ___
___ 02:00AM BLOOD Glucose-122* UreaN-31* Creat-3.3* Na-144 
K-3.5 Cl-102 HCO3-23 AnGap-19*
___ 02:00AM BLOOD ALT-31 AST-34 AlkPhos-101 TotBili-0.3
___ 02:00AM BLOOD Lipase-31
___ 02:00AM BLOOD cTropnT-0.04*
___ 02:00AM BLOOD Albumin-3.7

IMAGING/STUDIES
===============
___ Imaging CHEST (PA & LAT) 
IMPRESSION:  
Cardiomegaly with vascular engorgement, but no overt pulmonary 
edema. 

 
Brief Hospital Course:
___ with poorly controlled HTN, hx of MI, CVA, and CKD who
presents with dyspnea and CP in the setting of hypertensive
emergency.  

#CORONARIES:  Reported occlusion
#PUMP:  Unknown, reported CHF
#RHYTHM:  Sinus 

ACUTE ISSUES:  
=============  
#Patient goals and preferences
Ms. ___ has a serious concern about how quickly her blood
pressure is lowered. This stems from an event several years ago
when she and her family felt like their providers were not
listening to their requests and her blood pressure dropped
quickly causing a near cardiac arrest. 

We approached her and her family regarding our ideal target of a
blood pressure between 160 and 180 sometime today. They 
expressed
significant frustration that we were not respecting her wishes 
to
not lower her blood pressure below 180 today. They initially 
told
us they would leave against medical advice. We eventually came 
to
an arrangement that we would only target a systolic of 180 
today,
and we made it clear that leaving her blood pressure elevated
like this significantly increased her risk of stroke. They
expressed understanding and emphasized that Ms. ___ is likely 
a
unique case in that her blood pressure goals may be different
than others. We told them that a blood pressure of 180 is safer
than her leaving the hospital, even it if did leave her at an
increased risk of stroke, and we hoped they would stay in the
hospital, which they agreed to do. 

She also declined any blood pressure checks on her left arm,
despite our concern that she could have suffered from an aortic
dissection. Ms. ___ accepts this risk and prefers not to have
any blood pressure checks in the left arm due to her residual
deficit from stroke. Overall we have fairly low suspicion for
aortic dissection and therefore only checked blood pressures
on the right arm. 

# Hypertensive emergency  
The pt presents with markedly elevated BPs >250/150, in addition
to signs of end organ damage including EKG troponin leak,
pulmonary vascular congestion, and ___. She has a long history 
of
poorly controlled HTN and is not compliant with antihypertensive
regimen as prescribed. Continued nitro gtt and planned to start 
labetalol 200mg TID with a goal systolic of 180 today as per 
patient wishes. Ideally would lower systolic goal to 140 prior 
to discharge. However, patient left AMA with systolic pressures 
still above 200, was unwilling to take any additional 
medications. 
 
# NSTEMI  
# Chest pain  
The pt complains of chest pain w/ labs notable for very mild
troponin elevation. Likely due to markedly elevated BPs. EKG 
with
lateral TWI, which are also probably related to hypertension and
resulting LVH. We continued aspirin, planned to continue Plavix 
but patient left AMA before getting a dose.  

# ___  
Cr 3.3 from a presumed baseline near 1.7. Likely in the setting
of HTN emergency as above. Ordered urine electrolytes, but were 
unable to obtain prior to patient leaving AMA. HTN was managed 
as above. 

# CHF  
History of DOE with labs revealing for elevated BNP and 
pulmonary
vascular congestion on CXR are suggestive of at least some
component of congestive heart failure. Suspect diastolic
dysfunction given longstanding HTN, however, she also has a hx 
of
MI and multiple risk factors for CAD.  Patient was ordered for 
TTE, but left prior to getting this study done. Did not start a 
diuretic, but this should be considered as an outpatient. 

TRANSITIONAL ISSUES:
====================
[] Patient left medical advice. We encouraged Ms. ___ to stay 
for care and we discussed the risk of stroke from her elevated 
blood pressures. She did express some frustration that she did 
not think her blood pressure could ever get better and 
ultimately decided to leave against medical advice. 
[] Patient will need strong outpatient f/u and encouragement to 
take blood pressure medications; at present, it does not appear 
as though she has taken any. 
[] Relevant labwork: 
 - Cr 3.3, BUN 31 
 - ___ 13655 
 - Trop T 0.04 
 - Otherwise chemistries, CBC, LFTs, and coags wnl 

CORE MEASURES:  
==============  
#CODE:  Full code, confirmed
#CONTACT/HCP:  Crystal, HCP, ___
#DISPO: Patient left AMA
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NIFEdipine (Extended Release) 30 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
3. CARVedilol 3.125 mg PO BID 
4. Albuterol Inhaler 1 PUFF IH Q6H:PRN dyspnea 
5. Clopidogrel 75 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q6H:PRN dyspnea  
2.  Aspirin 81 mg PO DAILY  
3.  CARVedilol 3.125 mg PO BID  
4.  Clopidogrel 75 mg PO DAILY  
5.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
6.  NIFEdipine (Extended Release) 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive emergency
Acute kidney injury on chronic kidney disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___ - you were hospitalized with very high blood pressure. 
You had evidence of damage to your kidneys because of this, and 
your body was also holding on to some extra fluid which was 
likely causing you to feel short of breath. We strongly 
encourage you to see another provider immediately so that we can 
continue to work on improving your blood pressure. As we 
discussed, blood pressure this high puts you at risk of a stroke 
and other complications, including worsening heart failure. We 
wish you the best and thank you for the opportunity to care for 
you. 

Your ___ Care Team
 
Followup Instructions:
___